US08629137B2
7-methoxy-3-{1-[6-(4-methyl-2-oxo-2,3-dihydro-benzothiazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
63 mg (0.23 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one, 71 mg (0.23 mmol) 6-(6-chloro-pyrimidine-4-carbonyl)-4-methyl-3H-benzothiazol-2-one and 0.047 mL (0.27 mmol) DIPEA were combined in 2 mL DMF and shaken overnight at RT. The reaction mixture was taken up in acetonitrile/water and purified by preparative HPLC. The fractions containing the product were combined and freeze-dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 0.23 mmol, 63 mg | COC1=CC2=C(NC(N(CC2)C2CCNCC2)=O)C=C1 | C15H21N3O2
reactant | 6-(6-chloro-pyrimidine-4-carbonyl)-4-methyl-3H-benzothiazol-2-one | 0.23 mmol, 71 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(NC(S2)=O)C(=C1)C | C13H8ClN3O2S
reactant | DIPEA | 0.27 mmol, 0.047 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile water | C(C)#N.O
product | 7-methoxy-3-{1-[6-(4-methyl-2-oxo-2,3-dihydro-benzothiazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | COC1=CC2=C(NC(N(CC2)C2CCN(CC2)C2=NC=NC(=C2)C(=O)C2=CC3=C(NC(S3)=O)C(=C2)C)=O)C=C1 | C28H28N6O4S
